* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.89767990202e-11
.param C2=1.69137468117e-09
.param Csh=9.73077820167e-11
.param L1=9.74818988345e-07
.param Vsrc_amp=401.330942652
.param ne=6.81482887043e+14
.param nu_m=69502406.7395

* Sources
Vsrc src 0 SIN(0 401.330942652 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 11.2898793343
Lbulk nb ns 1.62438681823e-07
Csh ns n 9.73077820167e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
